US05665271
Preparation of trans-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-(4-pentenyl)-1-silacyclohexane
A solution of 200 ml of THF and 14.0 g of zinc chloride was dropped in 130 ml (0.13 mols) of a THF solution of 1M of 4-pentenylmagnesium bromide to obtain an organozinc reagent. The resultant mixture was added to a solution of 300 ml of THF and 37.4 g (0.1 mol) of 1-chloro-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-silacyclohexane. The resultant product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was subjected to ordinary aftertreatments such as removal of solvent and salts, followed by isolation through chromatography to obtain 30.9 g (yield: 76%) of the intended trans isomer product.

reactant | 1-chloro-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-silacyclohexane | 0.1 mol, 37.4 g | Cl[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC1=CC=C(C=C1)C#N | C22H32ClNSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-(4-pentenyl)-1-silacyclohexane | C(#N)C1=CC=C(C=C1)CCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCC=C | C27H41NSi
